US07834051B2
rac-2-fluoro-4-[(4R,5R)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-3-methylbenzonitrile
Using 2-fluoro-3-methyl-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile (60 mg) and lithium tri(sec-butyl)borohydride-THF solution (0.33 mL, 1 mol/L), and in the same manner as in Example 5, the title compound was obtained as colorless crystals (yield: 41.4 mg, 69%).

reactant | 2-fluoro-3-methyl-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | 60 mg | FC1=C(C#N)C=CC(=C1C)N1C(C(C(C1C)=O)(C)C)=O | C15H15FN2O2
reactant | lithium tri(sec-butyl)borohydride THF | 1 mol/L, 0.33 mL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+].C1CCOC1
product | rac-2-fluoro-4-[(4R,5R)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-3-methylbenzonitrile | FC1=C(C#N)C=CC(=C1C)N1C(C([C@H]([C@H]1C)O)(C)C)=O | C15H17FN2O2
